US04053473
N-(2-Dimethylaminoethyl)-N'-[2-(2-(4-methyl-5-oxazolyl)ethyl)aminoethyl]thiourea
By the procedure of Example 40(a)(ii), N-[2-(4-methyl-5-oxazolyl)ethyl]ethylenediamine [prepared by reacting ethylenediamine with 5-(2-chloroethyl)-4-methyloxazole] is reacted with 2-dimethylaminoethyl isothiocyanate to give the title compound.

reactant | N-[2-(4-methyl-5-oxazolyl)ethyl]ethylenediamine | CC=1N=COC1CCNCCN | C8H15N3O
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(2-(4-methyl-5-oxazolyl)ethyl)aminoethyl]thiourea | CN(CCNC(=S)NCCNCCC1=C(N=CO1)C)C | C13H25N5OS
